US09238639B2
A) Methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate 7-oxide
To a mixture of methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate (500 mg), urea hydrogen peroxide (239 mg) and CH3CN (8 mL) was added TFAA (0.353 mL) at room temperature. The mixture was stirred at room temperature for 4 h and at 70° C. overnight. To the mixture were added urea hydrogen peroxide (80 mg) and TFAA (0.118 mL). The mixture was stirred at 70° C. for 2 h. After cooling, to the mixture was added saturated aqueous NaHCO3. The resulting precipitate was collected by filtration to give the title compound (246 mg). The filtrate was concentrated. The residue was extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo to give the title compound (85.1 mg). Total yield: 331 mg.

reactant | methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate | 500 mg | C(C)OC(COC1=C(SC2=NC=CC=C21)C(=O)OC)=O | C13H13NO5S
reactant | urea hydrogen peroxide | 239 mg | OO.NC(=O)N
reactant | TFAA | 0.353 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | urea hydrogen peroxide | 80 mg | OO.NC(=O)N
reactant | TFAA | 0.118 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH3CN | 8 mL | CC#N | C2H3N
product | Methyl 3-(2-ethoxy-2-oxoethoxy)thieno[2,3-b]pyridine-2-carboxylate 7-oxide | 246 mg | C(C)OC(COC1=C(SC2=[N+](C=CC=C21)[O-])C(=O)OC)=O | C13H13NO6S
